US04012377
A solution of hydroxylamine prepared from hydroxylamine hydrochloride (8.34 g.) in methanol (150 ml.) by neutralisation with sodium methoxide was added to o-nitrocinnamonitrile (6.96 g.) (S. Malinowski, Roczniki Chem., 1952, 26, 85) and the mixture was refluxed for 2 hr., then evaporated to ca. 15 ml. under reduced pressure. Ethyl acetate (150 ml.) was added, and the solution was extracted with 2N-hydrochloric acid (2 × 150 ml.). The acid extracts were neutralised with solid sodium hydrogen carbonate, giving a solid (3.3 g., 40%). Recrystallisation from aqueous methanol gave o-nitrocinnamamidoxime, m.p. 173°, λmax. 236, 265 nm, (ε 17150, 14700) (Found: C, 52.4; H, 4.5; N, 20.05. C9H9N3O3 requires C, 52.2; H, 4.4; N, 20.3%).

reactant | hydroxylamine | NO | H3NO
reactant | hydroxylamine hydrochloride | 8.34 g | Cl.NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | o-nitrocinnamonitrile | 6.96 g | [N+](=O)([O-])C1=C(C=CC#N)C=CC=C1 | C9H6N2O2
solvent | methanol | 150 ml | CO | CH4O
product | o-nitrocinnamamidoxime | [N+](=O)([O-])C1=C(C=CC(N)=NO)C=CC=C1 | C9H9N3O3
